US05466687
4-[4-(2-Oxazolin-2-yl)benzyl]-1-(4-trifluoromethylbenzoyl)piperidine
441 mg (1 mmol) of 4-[4-(2-oxazolin-2-yl)benzylidene]-1-(4-trifluoromethylbenzoyl)piperidine are hydrogenated (ambient temperature, 30 minutes, hydrogen pressure 50 psi) in 10 ml of anhydrous ethanol and 2.5 ml of ethyl acetate in the presence of 0.5 g of palladium-carbon (10%). The catalyst is then suction-filtered, the filtrate is evaporated under reduced pressure at a bath temperature of 50° C. and the residue is purified by column chromatography (Silica gel; ethyl acetate). 200 mg (48% of theory) of the title compound of melting point 115° C. are obtained.

reactant | 4-[4-(2-oxazolin-2-yl)benzylidene]-1-(4-trifluoromethylbenzoyl)piperidine | 1 mmol, 441 mg | O1C(=NCC1)C1=CC=C(C=C2CCN(CC2)C(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C23H21F3N2O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 4-[4-(2-Oxazolin-2-yl)benzyl]-1-(4-trifluoromethylbenzoyl)piperidine | O1C(=NCC1)C1=CC=C(CC2CCN(CC2)C(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C23H23F3N2O2
